US05079260
2-[2-(1-Methylfluoren-9-yl)ethyl]-1,3-dioxolane (4.8 g, 17.2 mmol) in 100 mL of acetone was charged slowly with John's reagent (CrO3 : H2SO4 :H2O 4:4:50 by weight) at room temperature. The reaction was monitored by TLC (silica, 10% ethyl acetate/hexane). The reaction mixture was stirred for 6 hr at room temperature, the acetone was evaporated and the residual water was extracted with ethyl acetate twice. The combined organic layers were washed with water until water became colorless. The organic solution was then extracted with 1N aqueous solution of sodium hydroxide. The basic aqueous solution was washed with ethyl acetate, acidified and extracted with ethyl acetate again. The ethyl acetate solution was dried over magnesium sulfate and evaporated. Purification of the crude by short path chromatography (silica, 25% ethyl acetate/hexane) afforded 2.6 g (59.9%) of 3-(1-methylfluoren-9-yl)propionic acid.

reactant | 2-[2-(1-Methylfluoren-9-yl)ethyl]-1,3-dioxolane | 17.2 mmol, 4.8 g | CC1=CC=CC=2C3=CC=CC=C3C(C12)CCC1OCCO1 | C19H20O2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 3-(1-methylfluoren-9-yl)propionic acid | 2.6 g, 59.9% | CC1=CC=CC=2C3=CC=CC=C3C(C12)CCC(=O)O | C17H16O2
